US06548493B1
(±)-cis-2-(2-chlorophenyl)-4,5,6a,7,8,9,10,10a-octahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole
Tert-butyl (±)-cis-2-(2-chlorophenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate (45.1 mg, 0.11 mmol) was dissolved in 20% TFA in methylene chloride (4 mL) and was stirred at RT for 2 h. The reaction was solution was cooled to 0° C. and basified with 1M NaOH until pH>14. The layers were separated. The aqueous phase was extracted the methylene chloride (2×10 ml). The organic layers were washed with brine and dried. Concentration afforded the title compound (29.3 mg, 86%) as a pale yellow amorphous solid. 1H NMR (CDCl3, 300 MHz) δ7.42 (dd, 1H, J=1.4, 7.3 Hz), 7.16-7.33 (m, 3H), 7.02 (s, 1H), 6.96 (s, 1H), 3.69 (dt, 1H, J=1.4, 8.1 Hz), 3.15-3.50 (m, 5H), 3.06 (dt, 1H, J=3.2, 12.3 Hz), 2.82-2.97 (m, 3H), 1.78-1.93 (m, 2H) ppm. MS (CI, NH3): 311 (base, M+H).

reactant | Tert-butyl (±)-cis-2-(2-chlorophenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | 0.11 mmol, 45.1 mg | ClC1=C(C=CC=C1)C=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C24H27ClN2O2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | (±)-cis-2-(2-chlorophenyl)-4,5,6a,7,8,9,10,10a-octahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole | 29.3 mg, 86% | ClC1=C(C=CC=C1)C=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCNC3 | C19H19ClN2
